US05457105
Using an analogous procedure to that described in the portion of Example 1 which is concerned with the preparation of starting materials, 5-hydroxyanthranilic acid was converted into 6-hydroxyquinazolin-4-one. Acetic anhydride (1.38 g) was added dropwise to a mixture of 6-hydroxyquinazolin-4-one (2 g), triethylamine (1.37 g) and DMF (60 ml). The mixture was stirred at ambient temperature for 1 hour. The mixture was evaporated to give 6-acetoxyquinazolin-4-one which was reacted with thionyl chloride using an analogous procedure to that described in the portion of Example 1 which is concerned with the preparation of starting materials.

reactant | 5-hydroxyanthranilic acid | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
reactant | 6-hydroxyquinazolin-4-one | OC=1C=C2C(NC=NC2=CC1)=O | C8H6N2O2
reactant | Acetic anhydride | 1.38 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-hydroxyquinazolin-4-one | 2 g | OC=1C=C2C(NC=NC2=CC1)=O | C8H6N2O2
reactant | triethylamine | 1.37 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 6-acetoxyquinazolin-4-one | C(C)(=O)OC=1C=C2C(NC=NC2=CC1)=O | C10H8N2O3
